US07888366B2
To a cold (ice water) solution of 7-methoxy-3-(2H)-benzofuranone (846 mg; 5.0 mmol) in methanol (5 mL) is added sodium borohydride (179 mg; 5.0 mmol) is stirred for 15 minutes. Water (5 mL) is added to the solution and stirred 15 minutes. Saturated ammonium chloride (20 mL) is added and the solution is extracted with ethyl acetate. The organics are separated and dried over magnesium sulfate. The solvent is removed to give 831 milligrams of 7-methoxy-2,3-dihydrobenzofuran-3-ol.

reactant | 7-methoxy-3-(2H)-benzofuranone | 5.0 mmol, 846 mg | COC1=CC=CC=2C(COC21)=O | C9H8O3
reactant | sodium borohydride | 5.0 mmol, 179 mg | [BH4-].[Na+]
reactant | Water | 5 mL | O | H2O
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | methanol | 5 mL | CO | CH4O
product | 7-methoxy-2,3-dihydrobenzofuran-3-ol | 831 milligrams | COC1=CC=CC=2C(COC21)O | C9H10O3
